US08293768B2
Synthesis of 3-methyl-5-(2-oxo-3-phenethylimidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide
Following the procedure as described in Example 15, making variations as required to replace 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 3-methyl-5-(2-oxo-3-phenethylimidazolidin-1-yl)thiophene-2-carboxylic acid to react with 3-(aminomethyl)pyridine, the title compound was obtained as a colorless solid in 74% yield: mp 95-97° C.; 1H NMR (300 MHz, CDCl3) δ 8.59 (s, 1H), 8.52 (d, J=2.2 Hz, 1H), 7.69 (d, J=7.8 Hz, 1H), 7.35-7.18 (m, 6H), 6.12 (t, J=5.6 Hz, 1H), 6.05 (s, 1H), 4.57 (d, J=5.6 Hz, 2H), 3.77-3.70 (m, 2H), 3.54 (t, J=7.4 Hz, 2H), 3.46-3.39 (m, 2H), 2.88 (t, J=7.4 Hz, 2H), 2.48 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 163.6, 155.8, 149.2, 148.8, 142.6, 141.8, 138.4, 135.5, 134.1, 128.6, 126.6, 123.6, 118.7, 112.2, 45.5, 42.8, 42.6, 41.2, 34.1, 16.0; MS (ES+) m/z 421.3 (M+1).

reactant | 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C(=O)O | C17H15F3N2O3S
reactant | 3-methyl-5-(2-oxo-3-phenethylimidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCC1=CC=CC=C1)=O)C(=O)O | C17H18N2O3S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 3-methyl-5-(2-oxo-3-phenethylimidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide | 74% yield | CC1=C(SC(=C1)N1C(N(CC1)CCC1=CC=CC=C1)=O)C(=O)NCC=1C=NC=CC1 | C23H24N4O2S
